US07834051B2
(4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one
A solution of diisopropylamine (3.44 g) in tetrahydrofuran (50 mL) was ice-cooled under a nitrogen atmosphere and 1.6 mol/L n-butyllithium-hexane solution (20.8 mL) was added. The mixture was stirred at the same temperature for 20 min, and the reaction solution was cooled with dry ice/acetone. Ethyl acetate (3.28 mL) was added to the reaction solution, and the mixture was stirred at the same temperature for 30 min. A solution of tert-butyl [(1S)-1-methyl-2-oxopropyl]carbamate (4.48 g) in tetrahydrofuran (10 mL) was added. The mixture was stirred at the same temperature for 5 hr, saturated aqueous ammonium chloride solution (100 mL) was added, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=0→30%), the obtained oil was dissolved in 4 mol/L hydrogen chloride-ethyl acetate solution (50 mL), and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure, the residue was dissolved in tetrahydrofuran (150 mL), and diisopropylethylamine (11.5 mL) was added. The reaction solution was refluxed under heating for 4 hr, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: methanol/ethyl acetate=0→10%), and the obtained solid was recrystallized from isopropanol/hexane to give the title compound as colorless crystals (yield: 1.51 g, 55%).

reactant | diisopropylamine | 3.44 g | C(C)(C)NC(C)C | C6H15N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | tert-butyl [(1S)-1-methyl-2-oxopropyl]carbamate | 4.48 g | C[C@@H](C(C)=O)NC(OC(C)(C)C)=O | C9H17NO3
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 3.28 mL | C(C)(=O)OCC | C4H8O2
product | (4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one | yield: 1.51 g, 55% | O[C@]1(CC(N[C@H]1C)=O)C | C6H11NO2
